US06017939
0.7 ml of 0.1 N NaOH is added to a suspension of 30 mg of 3-(2,1,3-benzothiadiazol-5-yl)-4-benzyl-5-hydroxy-5-(4-methoxyphenyl)-5H-furan-2-one in 1 ml of methanol and the mixture is stirred at room temperature. The solvent is removed, the residue is partitioned between water and diethyl ether, and the agueous phase is then lyophilized. Sodium 2-(2,1,3-benzothiadiazol-5-yl)-3-benzyl-4-(4-methoxyphenyl)-4-oxo-2-butenoate, FAB 453, is obtained.

reactant | NaOH | 0.1 N, 0.7 ml | [OH-].[Na+]
reactant | 3-(2,1,3-benzothiadiazol-5-yl)-4-benzyl-5-hydroxy-5-(4-methoxyphenyl)-5H-furan-2-one | 30 mg | N=1SN=C2C1C=CC(=C2)C=2C(OC(C2CC2=CC=CC=C2)(C2=CC=C(C=C2)OC)O)=O | C24H18N2O4S
solvent | methanol | 1 ml | CO | CH4O
product | Sodium 2-(2,1,3-benzothiadiazol-5-yl)-3-benzyl-4-(4-methoxyphenyl)-4-oxo-2-butenoate | N=1SN=C2C1C=CC(=C2)C(C(=O)[O-])=C(C(=O)C2=CC=C(C=C2)OC)CC2=CC=CC=C2.[Na+] | InChI=1S/C24H18N2O4S.Na/c1-30-18-10-7-16(8-11-18)23(27)19(13-15-5-3-2-4-6-15)22(24(28)29)17-9-12-20-21(14-17)26-31-25-20;/h2-12,14H,13H2,1H3,(H,28,29);/q;+1/p-1
